US03966938
cis-1,2,3,4,4a,10b-Hexahydro-8,9-dimethoxy-2-methyl-6-(4-nitrophenyl)-benzo[c][1,6]naphthyridine.
cis-3-(3,4-Dimethoxypheny)-1-methyl-4-(4-nitrobenzoylamino)-piperidine [M.P. 167°, see Example 4 a)] is cyclized in analogy to the process described in Example 8. The dihydrochloride of the title compound has a M.P. of 225°-230° (from ethanol).

reactant | cis-3-(3,4-Dimethoxypheny)-1-methyl-4-(4-nitrobenzoylamino)-piperidine | COC=1C=C(C=CC1OC)[C@@H]1CN(CC[C@@H]1NC(C1=CC=C(C=C1)[N+](=O)[O-])=O)C | C21H25N3O5
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
product | cis-1,2,3,4,4a,10b-Hexahydro-8,9-dimethoxy-2-methyl-6-(4-nitrophenyl)-benzo[c][1,6]naphthyridine | COC=1C(=CC2=C(C(=N[C@H]3CCN(C[C@@H]23)C)C2=CC=C(C=C2)[N+](=O)[O-])C1)OC | C21H23N3O4
